US05830386
72 mg of palladium-carbon (palladium=about 5%), 372 mg (0.73 mM) of (S)-4,6-dichloro-(5-3-fluorononyl)-2-(4-decylphenyl)pyrimidine, 5 ml of 99%-ethanol, 118 mg (2.92 mM) of magnesium oxide and 0.3 ml of distilled water were placed in a two-necked round-bottomed flask and subjected to hydrogen addition for 5 hours at 60° C. After the reaction, benzene was added to the reaction mixture and the catalyst as removed from the reaction mixture, followed by distilling-off of the solvent and purification by thin-layer chromatography (eluent: benzene; Rf=0.5) to obtain 222 mg (0.50 mM) of (S)-5-(3-fluorononyl)-2-(4-decylphenyl)pyrimidine (crude product). The crude product was recrystallized from hexane to obtain an objective product (Yield: 69.2%).

reactant | (S)-4,6-dichloro-(5-3-fluorononyl)-2-(4-decylphenyl)pyrimidine | 0.73 mM, 372 mg | ClC1=NC(=NC(=C1CC[C@H](CCCCCC)F)Cl)C1=CC=C(C=C1)CCCCCCCCCC | C29H43Cl2FN2
reactant | ethanol | C(C)O | C2H6O
reactant | magnesium oxide | 2.92 mM, 118 mg | [O-2].[Mg+2]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 72 mg | [C].[Pd]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | 0.3 ml | O | H2O
product | (S)-5-(3-fluorononyl)-2-(4-decylphenyl)pyrimidine | 0.50 mM, 222 mg | F[C@H](CCC=1C=NC(=NC1)C1=CC=C(C=C1)CCCCCCCCCC)CCCCCC | C29H45FN2
